US08748624B2
STEP C: 4-chloro-2-formyl-5-(trifluoromethyl)phenyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate
A 1.04 M THF solution of t-BuOK (4.9 mL, 5.1 mmol) was added to a 0° C., THF solution (4 mL) of 5-chloro-2-hydroxy-4-(trifluoromethyl)benzaldehyde (1.0 g, 4.6 mmol). After 4 min, neat 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride (1.7 mL, 9.3 mmol) was added and the ice bath was removed. After 1 h at room temperature, AcOH (1 mL) was added and the resulting mixture was concentrated. The resulting material was diluted with DCM and 1M aqueous HCl, the layers were separated, and the organic layer was washed with 1 M NaHCO3, dried (Na2SO4), and concentrated to yield the title compound that was used without further purification.

reactant | t-BuOK | 5.1 mmol, 4.9 mL | CC(C)(C)[O-].[K+]
reactant | 5-chloro-2-hydroxy-4-(trifluoromethyl)benzaldehyde | 4.6 mmol, 1.0 g | ClC=1C(=CC(=C(C=O)C1)O)C(F)(F)F | C8H4ClF3O2
reactant | 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride | 9.3 mmol, 1.7 mL | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1.04 M | C1CCOC1 | C4H8O
product | 4-chloro-2-formyl-5-(trifluoromethyl)phenyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=C(C=C(C(=C1)C(F)(F)F)Cl)C=O)F | C12H3ClF12O4S
